US07105567B2
By the reaction and treatment in the same manner as in Example 1 using [(4-fluorophenyl)methyl](4-isopropylphenyl)amine (2.2 g) and 2,6-diisopropylphenyl isocyanate (2.2 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-[(4-fluorophenyl)methyl]-N-(4-isopropylphenyl)urea (0.82 g) was obtained. melting point: 80° C.

reactant | [(4-fluorophenyl)methyl](4-isopropylphenyl)amine | 2.2 g | FC1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C | C16H18FN
reactant | 2,6-diisopropylphenyl isocyanate | 2.2 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-[(4-fluorophenyl)methyl]-N-(4-isopropylphenyl)urea | 0.82 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)F)=O | C29H35FN2O
